US04190727
To a sample of 5 grams of Example 2B, i.e., 4-neopentyl-3-t-butyl 1,2 dithiole perchlorate, in 50 grams of isopropanol was added 2.5 grams of triethylamine. The excess of isopropanol was removed by distillation under diminished pressure. The residue was dissolved in ether and the ethereal solution was filtered. The ethereal solution was evaporated under diminished pressure to yield 4.3 grams (98% of theory) of 3-isopropoxy-3-t-butyl-4-neopentyl 1,2 dithiole; n.m.r. (CCl4) in ppm, 3.97, 1H singlet (vinyl); 6.18 1H multiplet (isopropoxy); 7.17, 1H doublet (diastereotopic, J=15 cps, neopentyl; 7.88, 1H doublet (diastereotopic, J=15 cps, neopentyl); 8.62, 9H singlet (t-butyl); 8.83, 6H doublet (isopropoxy); and 8.91, 9H singlet (t-butyl).

reactant | 4-neopentyl-3-t-butyl 1,2 dithiole perchlorate | Cl(=O)(=O)(=O)O.C(C(C)(C)C)C=1C(SSC1)C(C)(C)C
reactant | triethylamine | 2.5 grams | C(C)N(CC)CC | C6H15N
reactant | isopropanol | 50 grams | C(C)(C)O | C3H8O
product | 3-isopropoxy-3-t-butyl-4-neopentyl 1,2 dithiole | 4.3 grams, 98% | C(C)(C)OC1(SSC=C1CC(C)(C)C)C(C)(C)C | C15H28OS2
